*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:03:19 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TBUFXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TBUFXL OE Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET OE 4.13362e-16
*|P (OE X 0 0.3000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 0.2575 0.5075)
*|I (Mmn0:g Mmn0 g X 0 0.6625 0.5075)
*|I (Mmp4:g Mmp4 g X 0 0.2025 1.2975)
*|I (Mmp0:g Mmp0 g X 0 0.6725 1.2975)
*|S (OE:2 0.2300 0.8050)
*|S (OE:5 0.6250 0.8150)
*|S (OE:7 0.3000 0.8050)
C1 Mmp0:g VSS 5.02027e-17
C2 Mmp4:g VSS 4.41241e-17
C3 Mmn0:g VSS 4.25186e-17
C4 Mmn4:g VSS 4.82377e-17
C5 OE:2 VSS 1.11349e-16
C6 OE:5 VSS 9.47296e-17
C7 OE VSS 2.22008e-17
Rl1 Mmn4:g OE:2 75.000000 $W=0.039
Rl2 OE:5 Mmn0:g 76.155907 $W=0.039
Rl3 OE:2 Mmp4:g 135.714279 $W=0.039
Rl4 Mmp0:g OE:5 131.020096 $W=0.039
Rk5 OE:7 OE 0.056730 $W=0.1
Rk6 OE:5 OE:7 45.199753 $W=0.1
Rk7 OE:7 OE:2 45.037003 $W=0.12
*
*|NET Y 7.84028e-17
*|P (Y X 0 1.7000 1.0450)
*|I (Mmn5:d Mmn5 d X 0 1.6950 0.5325)
*|I (Mmp5:d Mmp5 d X 0 1.7050 1.0475)
*|S (Y:2 1.7150 1.0400)
C8 Mmp5:d VSS 3.31083e-17
C9 Mmn5:d VSS 4.52945e-17
Rk8 Y Y:2 0.002901 $W=0.105
Rk9 Y:2 Mmn5:d 75.339157 $W=0.09
Rk10 Mmp5:d Y:2 62.000000 $W=1
*
*|NET A 7.09483e-16
*|P (A X 0 0.5000 1.0450)
*|I (Mmn3:g Mmn3 g X 0 0.3625 0.5075)
*|I (Mmn1:g Mmn1 g X 0 1.3825 0.5325)
*|I (Mmp3:g Mmp3 g X 0 0.4075 1.2975)
*|I (Mmp1:g Mmp1 g X 0 1.3475 1.0475)
*|S (A:2 0.4450 0.9950)
*|S (A:6 1.3550 0.3350)
*|S (A:7 0.4450 0.9950)
C10 Mmp1:g VSS 8.07172e-17
C11 Mmp3:g VSS 4.53008e-17
C12 Mmn1:g VSS 5.74211e-17
C13 Mmn3:g VSS 6.57838e-17
C14 A:2 VSS 2.55331e-16
C15 A:6 VSS 1.86561e-16
C16 A VSS 1.83678e-17
Rl11 A:2 Mmn3:g 155.323349 $W=0.039
Rl12 Mmn1:g A:6 80.307159 $W=0.039
Rl13 Mmp3:g A:2 60.771290 $W=0.039
Rl14 Mmp1:g Mmn1:g 129.429825 $W=0.039
Rk15 A:7 A 0.020180 $W=0.13
Rk16 A:6 A:7 1.361743 $W=0.08
Rk17 A:2 A:7 45.000000 $W=0.08
*
*|NET net144 0
*|I (Mmn4:s Mmn4 s X 0 0.3100 0.5075)
*|I (Mmn3:d Mmn3 d X 0 0.3100 0.5075)
Rmw18 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET pon 4.48362e-16
*|I (Mmn4:d Mmn4 d X 0 0.1525 0.5075)
*|I (Mmp4:d Mmp4 d X 0 0.3050 1.2975)
*|I (Mmp5:g Mmp5 g X 0 1.6125 1.0475)
*|S (pon:2 1.6400 1.3750)
*|S (pon:5 0.3050 1.2500)
C17 Mmp5:g VSS 4.86582e-17
C18 Mmp4:d VSS 1.8362e-16
C19 Mmn4:d VSS 7.40779e-17
C20 pon:2 VSS 1.42006e-16
Rl19 Mmp5:g pon:2 116.845619 $W=0.039
Rk20 pon:5 pon:2 1.072867 $W=0.09
Rk21 Mmn4:d pon:5 75.671043 $W=0.06
Rk22 Mmp4:d pon:5 62.000000 $W=0.06
*
*|NET OEb 3.95792e-16
*|I (Mmn0:d Mmn0 d X 0 0.7950 0.5075)
*|I (Mmn2:g Mmn2 g X 0 1.1775 0.5325)
*|I (Mmp0:d Mmp0 d X 0 0.7650 1.2975)
*|I (Mmp2:g Mmp2 g X 0 1.2425 1.0475)
*|S (OEb:2 1.1400 0.7050)
*|S (OEb:4 0.9750 0.7050)
C21 Mmp2:g VSS 6.25111e-17
C22 Mmp0:d VSS 8.15421e-17
C23 Mmn2:g VSS 3.0725e-17
C24 Mmn0:d VSS 5.90211e-17
C25 OEb:4 VSS 8.77883e-17
C26 OEb:2 VSS 7.42049e-17
Rl23 OEb:2 Mmn2:g 24.232828 $W=0.039
Rl24 Mmp2:g OEb:2 93.784889 $W=0.039
Rk25 OEb:2 OEb:4 45.096470 $W=0.09
Rk26 OEb:4 Mmn0:d 75.247314 $W=0.08
Rk27 OEb:4 Mmp0:d 62.558903 $W=0.08
*
*|NET non 2.57885e-16
*|I (Mmn2:d Mmn2 d X 0 1.2800 0.5325)
*|I (Mmn5:g Mmn5 g X 0 1.6025 0.5325)
*|I (Mmp2:d Mmp2 d X 0 1.1500 1.0475)
*|S (non:2 1.5250 0.7100)
*|S (non:3 1.3300 0.7100)
C27 Mmp2:d VSS 6.10096e-17
C28 Mmn5:g VSS 4.63606e-17
C29 Mmn2:d VSS 3.91306e-17
C30 non:3 VSS 3.97846e-17
C31 non:2 VSS 7.16001e-17
Rl28 Mmn5:g non:2 80.205833 $W=0.039
Rk29 non:2 non:3 0.118279 $W=0.09
Rk30 non:3 Mmn2:d 75.114487 $W=0.09
Rk31 non:3 Mmp2:d 62.339722 $W=0.09
*
*|NET net127 0
*|I (Mmp2:s Mmp2 s X 0 1.2950 1.0475)
*|I (Mmp1:d Mmp1 d X 0 1.2950 1.0475)
Rmw32 Mmp1:d Mmp2:s 0.001000 $W=1
*
*Instance Section
*
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02393P	AS=0.0087P	PD=0.62U	PS=0.41U
+ fw=1.45e-07 sa=1.65e-07 sb=6.25e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.04358P	PD=0.41U	PS=0.91U
+ fw=1.45e-07 sa=2.7e-07 sb=5.2e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0319P	AS=0.04358P	PD=0.73U	PS=0.91U
+ fw=1.45e-07 sa=5.7e-07 sb=2.2e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.07025P	PD=0.61U	PS=1.39U
+ fw=1.45e-07 sa=1.7e-07 sb=5.65e-07 sca=15.7071 scb=0.0167369 scc=0.00113434
Mmn1	Mmn2:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.02537P	PD=0.61U	PS=0.64U
+ fw=1.45e-07 sa=3.75e-07 sb=3.6e-07 sca=15.7071 scb=0.0167369 scc=0.00113434
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.02537P	PD=0.57U	PS=0.64U
+ fw=1.45e-07 sa=5.95e-07 sb=1.4e-07 sca=15.7071 scb=0.0167369 scc=0.00113434
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=6.1e-07 sca=23.8733 scb=0.0264891 scc=0.00148688
Mmp3	Mmp4:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0743P	PD=0.75U	PS=1.32U
+ fw=2.15e-07 sa=3.45e-07 sb=4.05e-07 sca=13.8395 scb=0.0118164 scc=0.000122256
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0743P	PD=0.71U	PS=1.32U
+ fw=2.15e-07 sa=6.1e-07 sb=1.4e-07 sca=11.1189 scb=0.00792127 scc=8.08408e-05
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0129P	PD=0.71U	PS=0.55U
+ fw=2.15e-07 sa=1.4e-07 sb=5.1e-07 sca=28.9946 scb=0.0243497 scc=0.00347661
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.1043P	PD=0.55U	PS=1.82U
+ fw=2.15e-07 sa=2.45e-07 sb=4.05e-07 sca=29.4689 scb=0.0246948 scc=0.00347702
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.1043P	PD=0.71U	PS=1.82U
+ fw=2.15e-07 sa=5.1e-07 sb=1.4e-07 sca=32.5034 scb=0.0292389 scc=0.00353613
.ENDS
.END
