*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:03:36 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TIELO"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TIELO Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 8.65547e-17
*|P (Y X 0 0.1000 0.4750)
*|I (Mmn0:d Mmn0 d X 0 0.1100 0.5300)
*|S (Y:2 0.1000 0.4700)
C1 Y VSS 8.65547e-17
Rk1 Y:2 Y 0.002980 $W=0.1
Rk2 Mmn0:d Y:2 75.000000 $W=0.1
*
*|NET net25 1.37908e-16
*|I (Mmn0:g Mmn0 g X 0 0.2025 0.5300)
*|I (Mmp0:d Mmp0 d X 0 0.1100 1.0950)
*|I (Mmp0:g Mmp0 g X 0 0.2025 1.0950)
*|S (net25:2 0.1650 0.8000)
C2 Mmp0:g VSS 2.28853e-17
C3 Mmp0:d VSS 4.28955e-17
C4 Mmn0:g VSS 2.75757e-17
C5 net25:2 VSS 4.45511e-17
Rl3 net25:2 Mmn0:g 39.617443 $W=0.039
Rl4 Mmp0:g net25:2 24.232828 $W=0.039
Rk5 Mmp0:d net25:2 65.839355 $W=0.1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0364P	PD=0.8U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=1.4e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0546P	PD=1.06U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=1.4e-07 sca=47.9961 scb=0.0439169 scc=0.00481722
.ENDS
.END
