*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:04:24 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATNCAX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATNCAX4 CK E ECK
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 1.94609e-16
*|P (CK X 0 0.5000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 0.3225 0.5675)
*|I (Mmp0:g Mmp0 g X 0 0.3025 1.0075)
*|S (CK:2 0.3125 0.7400)
*|S (CK:4 0.3600 0.7400)
C1 Mmp0:g VSS 2.28909e-17
C2 Mmn0:g VSS 2.67293e-17
C3 CK:2 VSS 2.79765e-17
C4 CK:4 VSS 7.38506e-17
C5 CK VSS 4.31616e-17
Rl1 CK:2 CK:4 48.322868 $W=0.094
Rl2 Mmn0:g CK:2 40.103134 $W=0.039
Rl3 CK:2 Mmp0:g 63.180058 $W=0.039
Rk4 CK CK:4 0.082779 $W=0.1
*
*|NET E 2.33566e-16
*|P (E X 0 3.1000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 2.9425 0.4725)
*|I (Mmp5:g Mmp5 g X 0 2.9425 1.1725)
*|S (E:2 2.9800 0.8400)
C6 Mmp5:g VSS 4.02729e-17
C7 Mmn5:g VSS 3.94839e-17
C8 E:2 VSS 1.09643e-16
C9 E VSS 4.41667e-17
Rl5 E:2 Mmn5:g 99.232826 $W=0.039
Rl6 Mmp5:g E:2 72.309746 $W=0.039
Rk7 E E:2 45.053959 $W=0.122
*
*|NET ECK 2.42771e-16
*|P (ECK X 0 0.7000 0.8550)
*|I (Mmn22@1:d Mmn22@1 d X 0 0.6900 0.5100)
*|I (Mmp22@1:d Mmp22@1 d X 0 0.6700 1.0950)
C10 Mmp22@1:d VSS 1.22727e-16
C11 Mmn22@1:d VSS 1.01752e-16
C12 ECK VSS 1.82914e-17
Rk8 Mmn22@1:d ECK 0.202267 $W=0.07
Rk9 Mmp22@1:d ECK 0.045746 $W=0.1
*
*|NET CKb 7.89284e-16
*|I (Mmn0:d Mmn0 d X 0 0.2200 0.5675)
*|I (Mmn1:g Mmn1 g X 0 1.5075 0.5675)
*|I (Mmn6:g Mmn6 g X 0 2.6575 0.4725)
*|I (Mmp0:d Mmp0 d X 0 0.2100 1.0075)
*|I (Mmp1:g Mmp1 g X 0 1.5075 1.0075)
*|I (Mmp16:g Mmp16 g X 0 2.5275 1.1725)
*|S (CKb:3 1.5450 1.2800)
*|S (CKb:6 2.5650 1.3800)
*|S (CKb:8 0.2000 0.9600)
C13 Mmp16:g VSS 8.20556e-17
C14 Mmp1:g VSS 3.16673e-17
C15 Mmp0:d VSS 1.30853e-16
C16 Mmn6:g VSS 8.21696e-17
C17 Mmn1:g VSS 4.22489e-17
C18 Mmn0:d VSS 3.38572e-17
C19 CKb:3 VSS 2.51951e-16
C20 CKb:6 VSS 1.34481e-16
Rl10 Mmp1:g CKb:3 94.232826 $W=0.039
Rl11 Mmp1:g Mmn1:g 100.000000 $W=0.039
Rl12 Mmp16:g CKb:6 69.232826 $W=0.039
Rl13 Mmn6:g Mmp16:g 232.257965 $W=0.039
Rk14 CKb:6 CKb:3 0.790182 $W=0.09
Rk15 CKb:3 CKb:8 1.162029 $W=0.08
Rk16 CKb:8 Mmn0:d 75.274994 $W=0.09
Rk17 Mmp0:d CKb:8 62.000000 $W=0.08
*
*|NET ECKb 6.21539e-16
*|I (Mmn22@1:g Mmn22@1 g X 0 0.5875 0.5100)
*|I (Mmn21:d Mmn21 d X 0 1.8500 0.5300)
*|I (Mmp21:d Mmp21 d X 0 2.0450 1.2550)
*|S (ECKb:15 1.4800 0.7650)
C21 Mmp21:d VSS 1.16057e-16
C22 Mmn21:d VSS 8.57598e-17
C23 Mmn22@1:g VSS 2.7511e-16
C24 ECKb:15 VSS 1.44612e-16
Rk18 ECKb:15 Mmn22@1:g 45.271614 $W=0.08
Rk19 ECKb:15 Mmn21:d 75.569496 $W=0.09
Rk20 ECKb:15 Mmp21:d 62.684315 $W=0.08
*
*|NET CKbb 6.15341e-16
*|I (Mmn1:d Mmn1 d X 0 1.6150 0.5675)
*|I (Mmn21:g Mmn21 g X 0 1.9425 0.5300)
*|I (Mmn16:g Mmn16 g X 0 2.4225 0.4725)
*|I (Mmp1:d Mmp1 d X 0 1.6800 0.9600)
*|I (Mmp21:g Mmp21 g X 0 1.9425 1.2550)
*|I (Mmp6:g Mmp6 g X 0 2.7625 1.1725)
*|S (CKbb:2 1.9050 0.8500)
*|S (CKbb:5 2.3950 0.8200)
*|S (CKbb:7 2.6600 0.9200)
*|S (CKbb:8 1.9050 0.8500)
*|S (CKbb:9 1.7000 0.8550)
C25 Mmp6:g VSS 4.42604e-17
C26 Mmp21:g VSS 5.82771e-17
C27 Mmp1:d VSS 3.39994e-17
C28 Mmn16:g VSS 5.93026e-17
C29 Mmn21:g VSS 5.88154e-17
C30 Mmn1:d VSS 3.88629e-17
C31 CKbb:9 VSS 3.61221e-17
C32 CKbb:2 VSS 7.83549e-17
C33 CKbb:5 VSS 1.0576e-16
C34 CKbb:7 VSS 1.01586e-16
Rl21 CKbb:2 Mmn21:g 58.848213 $W=0.039
Rl22 Mmn16:g CKbb:5 137.999466 $W=0.039
Rl23 Mmp21:g CKbb:2 66.540527 $W=0.039
Rl24 Mmp6:g CKbb:7 102.669495 $W=0.039
Rk25 CKbb:7 CKbb:5 0.227632 $W=0.09
Rk26 CKbb:5 CKbb:8 0.320566 $W=0.1
Rk27 CKbb:2 CKbb:8 45.000000 $W=0.1
Rk28 CKbb:8 CKbb:9 0.122516 $W=0.1
Rk29 CKbb:9 Mmn1:d 75.244865 $W=0.06
Rk30 CKbb:9 Mmp1:d 62.082840 $W=0.09
*
*|NET net238 0
*|I (Mmn21:s Mmn21 s X 0 1.9950 0.5300)
*|I (Mmn20:d Mmn20 d X 0 1.9950 0.5300)
Rmw31 Mmn20:d Mmn21:s 0.001000 $W=1
*
*|NET Eint 6.52384e-16
*|I (Mmn20:g Mmn20 g X 0 2.0475 0.5300)
*|I (Mmn15:g Mmn15 g X 0 2.2525 0.4725)
*|I (Mmn10:d Mmn10 d X 0 3.3000 0.4725)
*|I (Mmp20:g Mmp20 g X 0 2.1475 1.2550)
*|I (Mmp15:g Mmp15 g X 0 2.4125 1.1725)
*|I (Mmp10:d Mmp10 d X 0 3.3000 1.1725)
*|S (Eint:2 2.2525 0.9625)
*|S (Eint:3 2.1475 0.9625)
*|S (Eint:6 2.2800 0.2950)
*|S (Eint:10 3.3100 0.4600)
C35 Mmp10:d VSS 6.03424e-17
C36 Mmp15:g VSS 6.56915e-17
C37 Mmp20:g VSS 4.06219e-17
C38 Mmn10:d VSS 1.98452e-16
C39 Mmn15:g VSS 2.73994e-17
C40 Mmn20:g VSS 6.75625e-17
C41 Eint:3 VSS 3.72159e-17
C42 Eint:2 VSS 3.3173e-17
C43 Eint:6 VSS 1.21925e-16
Rl32 Eint:2 Eint:3 36.928600 $W=0.039
Rl33 Eint:3 Mmn20:g 144.208664 $W=0.039
Rl34 Mmn15:g Eint:6 71.155907 $W=0.039
Rl35 Eint:2 Mmn15:g 153.527649 $W=0.039
Rl36 Eint:3 Mmp20:g 30.450726 $W=0.039
Rl37 Mmp15:g Eint:2 90.362511 $W=0.039
Rk38 Eint:10 Eint:6 0.849743 $W=0.08
Rk39 Mmn10:d Eint:10 75.000000 $W=0.09
Rk40 Mmp10:d Eint:10 62.735592 $W=0.09
*
*|NET net230 0
*|I (Mmn15:d Mmn15 d X 0 2.3375 0.4725)
*|I (Mmn16:s Mmn16 s X 0 2.3375 0.4725)
Rmw41 Mmn16:s Mmn15:d 0.001000 $W=1
*
*|NET n0 4.28778e-16
*|I (Mmn16:d Mmn16 d X 0 2.5400 0.4725)
*|I (Mmn10:g Mmn10 g X 0 3.2075 0.4725)
*|I (Mmp16:d Mmp16 d X 0 2.6450 1.1725)
*|I (Mmp10:g Mmp10 g X 0 3.2075 1.1725)
*|S (n0:1 3.3800 0.6800)
*|S (n0:2 3.2075 0.6800)
*|S (n0:6 2.8200 0.6500)
C44 Mmp10:g VSS 3.79639e-17
C45 Mmp16:d VSS 6.55715e-17
C46 Mmn10:g VSS 3.0791e-17
C47 Mmn16:d VSS 5.0885e-17
C48 n0:6 VSS 1.1576e-16
C49 n0:2 VSS 3.04855e-17
C50 n0:1 VSS 9.73213e-17
Rl42 n0:1 n0:2 61.200542 $W=0.114
Rl43 n0:2 Mmn10:g 46.956516 $W=0.039
Rl44 n0:2 Mmp10:g 143.110367 $W=0.039
Rk45 n0:6 n0:1 0.441885 $W=0.08
Rk46 n0:6 Mmn16:d 75.303017 $W=0.09
Rk47 Mmp16:d n0:6 62.443752 $W=0.08
*
*|NET net254 1.5743e-18
*|I (Mmn6:s Mmn6 s X 0 2.8000 0.4725)
*|I (Mmn5:d Mmn5 d X 0 2.8000 0.4725)
C51 Mmn6:s VSS 1.5743e-18
Rmw48 Mmn5:d Mmn6:s 0.001000 $W=1
*
*|NET net205 1.36479e-18
*|I (Mmp15:d Mmp15 d X 0 2.4700 1.1725)
*|I (Mmp16:s Mmp16 s X 0 2.4700 1.1725)
C52 Mmp15:d VSS 1.36479e-18
Rmw49 Mmp16:s Mmp15:d 0.001000 $W=1
*
*|NET net217 2.42653e-18
*|I (Mmp6:s Mmp6 s X 0 2.8525 1.1725)
*|I (Mmp5:d Mmp5 d X 0 2.8525 1.1725)
C53 Mmp6:s VSS 2.42653e-18
Rmw50 Mmp5:d Mmp6:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.048P	PD=0.61U	PS=0.96U
+ fw=1.45e-07 sa=1.6e-07 sb=1.355e-06 sca=19.8813 scb=0.0206549 scc=0.00197265
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02465P	AS=0.05162P	PD=0.63U	PS=1.01U
+ fw=1.45e-07 sa=1.345e-06 sb=1.7e-07 sca=19.8813 scb=0.0206549 scc=0.00197265
Mmn21	Mmn21:d	Mmn21:g	Mmn21:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0156P	PD=0.8U	PS=0.64U
+ fw=2.6e-07 sa=1.4e-07 sb=8.74231e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0347P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=2.45e-07 sb=7.69231e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01812P	AS=0.0347P	PD=0.54U	PS=0.84U
+ fw=1.45e-07 sa=4.5e-07 sb=1.095e-06 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn16	Mmn16:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02755P	AS=0.01812P	PD=0.67U	PS=0.54U
+ fw=1.45e-07 sa=6.2e-07 sb=9.25e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn6	Mmn16:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02755P	AS=0.0348P	PD=0.67U	PS=0.77U
+ fw=1.45e-07 sa=8.55e-07 sb=6.9e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0348P	AS=0.0475P	PD=0.77U	PS=0.99U
+ fw=1.45e-07 sa=1.14e-06 sb=4.05e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0475P	PD=0.57U	PS=0.99U
+ fw=1.45e-07 sa=1.405e-06 sb=1.4e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn22@1	Mmn22@1:d	Mmn22@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04766P	PD=0.84U	PS=0.9275U	M=4
+ fw=2.6e-07 sa=2.98942e-07 sb=9.48462e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.09025P	PD=0.71U	PS=1.44U
+ fw=2.15e-07 sa=1.4e-07 sb=1.36081e-06 sca=52.4731 scb=0.0379902 scc=0.00614793
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0335P	AS=0.11785P	PD=0.83U	PS=1.9U
+ fw=2.15e-07 sa=1.345e-06 sb=1.55814e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0641P	PD=1.1U	PS=1.48U
+ fw=3.9e-07 sa=1.08974e-07 sb=9.41923e-07 sca=11.9453 scb=0.010292 scc=0.000333254
Mmp20	Mmp21:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0827P	PD=1.1U	PS=1.32U
+ fw=3.9e-07 sa=3.13974e-07 sb=7.36923e-07 sca=11.9453 scb=0.010292 scc=0.000333254
Mmp15	Mmp15:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.01505P	AS=0.0827P	PD=0.57U	PS=1.32U
+ fw=2.15e-07 sa=5.7e-07 sb=9.35e-07 sca=13.1637 scb=0.0123476 scc=0.000501177
Mmp16	Mmp16:d	Mmp16:g	Mmp16:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04085P	AS=0.01505P	PD=0.81U	PS=0.57U
+ fw=2.15e-07 sa=6.85e-07 sb=8.2e-07 sca=13.1637 scb=0.0123476 scc=0.000501177
Mmp6	Mmp16:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.02902P	PD=0.81U	PS=0.7U
+ fw=2.15e-07 sa=9.2e-07 sb=5.85e-07 sca=13.449 scb=0.0124246 scc=0.00050119
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02902P	AS=0.0473P	PD=0.7U	PS=0.87U
+ fw=2.15e-07 sa=1.1e-06 sb=4.05e-07 sca=14.1512 scb=0.0128629 scc=0.000501608
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0473P	PD=0.71U	PS=0.87U
+ fw=2.15e-07 sa=1.365e-06 sb=1.4e-07 sca=17.1027 scb=0.0172361 scc=0.000555702
Mmp22@1	Mmp22@1:d	Mmn22@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.09973P	PD=1.1U	PS=1.525U	M=4
+ fw=3.9e-07 sa=2.99551e-07 sb=9.83269e-07 sca=32.0868 scb=0.0213516 scc=0.00336326
.ENDS
.END
